US07276511B2
Synthesis of tert-butyl(1-(3,4-dichlorophenyl)-1-{[methyl-(3,3,3-trifluoro-propionyl)-amino]-methyl}-3-butenyl)-methyl-carbamate (Alternative Method)
tert-Butyl[1-(3,4-dichlorophenyl)-1-methylaminomethyl-3-butenyl]methylcarbamate (5.0 g) was dissolved in N,N-dimethylformamide (50 mL), and, at room temperature, 3,3,3-trifluoropropionic acid (1.3 mL), [2-(1H)-benzotriazole-1-yl]-1,1,3,3-tetramethyluronium hexafluorophosphate (5.6 g), 1-hydroxybenzotriazole monohydrate (2.0 g), and N,N-diisopropylethylamine (3.5 mL) were added thereto, followed by stirring for 2 hours at room temperature. 3,3,3-Trifluoropropionic acid (0.6 mL), [2-(1H)-benzotriazole-1-yl]-1,1,3,3-tetramethyluronium hexafluorophosphate (2.5 g), 1-hydroxybenzotriazole monohydrate (1.0 g), and N,N-diisopropylethylamine (1.75 mL) were added to the reaction mixture, and the resultant mixture was stirred for 1 hour at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby give the title compound (3.38 g, 52%).

reactant | tert-Butyl[1-(3,4-dichlorophenyl)-1-methylaminomethyl-3-butenyl]methylcarbamate | 5.0 g | C(C)(C)(C)OC(N(C)C(CC=C)(CNC)C1=CC(=C(C=C1)Cl)Cl)=O | C18H26Cl2N2O2
reactant | 3,3,3-trifluoropropionic acid | 1.3 mL | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | [2-(1H)-benzotriazole-1-yl]-1,1,3,3-tetramethyluronium hexafluorophosphate | 5.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 2.0 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 3.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,3,3-Trifluoropropionic acid | 0.6 mL | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | [2-(1H)-benzotriazole-1-yl]-1,1,3,3-tetramethyluronium hexafluorophosphate | 2.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.0 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 1.75 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl(1-(3,4-dichlorophenyl)-1-{[methyl-(3,3,3-trifluoro-propionyl)-amino]-methyl}-3-butenyl)-methyl-carbamate | 3.38 g, 52% | C(C)(C)(C)OC(N(C)C(CC=C)(CN(C(CC(F)(F)F)=O)C)C1=CC(=C(C=C1)Cl)Cl)=O | C21H27Cl2F3N2O3
